US09227985B2
N-({3-[7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]pyridin-2-yl}methyl)acetamide
A solution of 4-[2-(aminomethyl)pyridin-3-yl]-7-(3,5-dimethylisoxazol-4-yl)-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one bis(trifluoroacetate) (35.0 mg, 0.058 mmol) in methylene chloride (2.0 mL) was treated with N,N-diisopropylethylamine (50.3 μL, 0.289 mmol) and stirred. Once the starting material was completely dissolved, the reaction mixture was treated with acetyl chloride (49.3 μL, 0.069 mmol) (added as a 10% solution in dichloromethane) and stirred at room temperature for 1 h. The reaction mixture was quenched with methanol and the solvent was concentrated to give the crude product. Purification by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) gave the desired product (18 mg, 74%) as a racemic mixture. 1H NMR (500 MHz, DMSO-d6) δ 10.98 (br s, 1H), 8.50-8.47 (m, 1H), 8.44 (dd, J=5.2, 5.2 Hz, 1H), 7.26 (dd, J=7.9, 4.7 Hz, 1H), 7.23-7.16 (m, 1H), 6.88 (d, J=8.0 Hz, 1H), 6.78 (d, J=8.0 Hz, 1H), 5.68 (dd, J=3.1, 3.1 Hz, 1H), 4.71 (dd, J=15.1, 6.1 Hz, 1H), 4.55-4.47 (m, 2H), 4.44 (dd, J=11.6, 3.2 Hz, 1H), 2.28 (s, 3H), 2.12 (s, 3H), 1.88 (s, 3H); LCMS calculated for C22H22N5O4 (M+H)+: m/z=420.2. found: 420.1.

reactant | 4-[2-(aminomethyl)pyridin-3-yl]-7-(3,5-dimethylisoxazol-4-yl)-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one bis(trifluoroacetate) | 0.058 mmol, 35.0 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.NCC1=NC=CC=C1C1COC2=C3N1C(NC3=CC=C2C=2C(=NOC2C)C)=O
reactant | N,N-diisopropylethylamine | 0.289 mmol, 50.3 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.069 mmol, 49.3 μL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-({3-[7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]pyridin-2-yl}methyl)acetamide | 18 mg, 74% | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C=3C(=NC=CC3)CNC(C)=O)C(N2)=O)C | C22H21N5O4
